US04168282
82 g. (1 mole) of cyclohexene and 66 g. (0.5 mole) of dicyclopentadiene are reacted according to the batch procedure in 300 g. of chloroform. The reaction is carried out for 5 hours at 220° C. to produce a moderate yield of tricyclo [6.2.1.02,7 ] undec-9-ene.

reactant | cyclohexene | 1 mole | C1=CCCCC1 | C6H10
reactant | dicyclopentadiene | 0.5 mole | C1C=CC2C1C3CC2C=C3 | C10H12
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | tricyclo [6.2.1.02,7 ] undec-9-ene | C12C3CCCCC3C(C=C1)C2 | C11H16
